Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
venom-honey bee
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with no significant
past medical history who presented to the ED with progressive
dyspnea x 3 days. 

Patient reports onset of symptoms 3 days prior to admission with
subjective fevers, chills, and cough. He had a severe prolonged
coughing fit at that time after which he subsequently developed
progressive dyspnea with difficulty swallowing and chest
tightness, pleuritic in nature. Denies any recent travel or sick
contacts. No prior history of similar episodes though does
endorse a history of panic attacks with transient chest
discomfort that resolves with relaxation. No history of trauma.
No known history lung disease. Denies any wheezing or 
respiratory
symptoms triggered for exercise, cold air, or allergens to
suggest an underlying history of asthma.  He reports the dyspnea
was preventing him from sleeping at night which prompted him to
call EMS to come to the ED. 

 
Past Medical History:
Depression
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
========================
VS: 98.1 ___
GENERAL: NAD
HEENT: PERRLA, EOMI, MMM
NECK: crepitus in the lower base of the neck
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, decreased BS at the bases 
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

Discharge Physical Exam:
========================
Physical Examination:
VS: ___ ___ Temp: 98.6 PO BP: 120/74 L Lying HR: 76 RR: 18
O2 sat: 97% O2 delivery: RA 
GENERAL: NAD, A&Ox3, lying in bed comfortably 
EYES: Sclera clear, anicteric, PERRL
Neck: no JVD
CV: RRR, normal s1/s2, no MRG 
Chest: palpable crepitus across right chest into the lower right
anterior neck 
RESP: Decreased air entry to bases. No accessory muscle usage
ABD: Bowel sounds normoactive, soft and NTND, no HSM. No
guarding/rebound tenderness. 
Ext: No clubbing/cyanosis. Pulses 2+ bilaterally. Normal 
strength
and ROM in all extremities. 
SKIN:No rashes/lesions. No jaundice. Warm. No evidence of skin
breakdown. 
NEURO: No gross deficits, ___ 
PSYCH: Mood/affect appropriate. 

 
Pertinent Results:
Admission Labs:
===============
___ 08:45AM BLOOD WBC-16.0* RBC-5.50 Hgb-16.2 Hct-50.0 
MCV-91 MCH-29.5 MCHC-32.4 RDW-11.9 RDWSD-39.7 Plt ___
___ 08:45AM BLOOD Neuts-81.9* Lymphs-7.7* Monos-7.1 Eos-2.5 
Baso-0.2 Im ___ AbsNeut-13.11* AbsLymp-1.24 AbsMono-1.13* 
AbsEos-0.40 AbsBaso-0.04
___ 08:45AM BLOOD ___ PTT-31.3 ___
___ 08:45AM BLOOD Glucose-95 UreaN-12 Creat-1.0 Na-144 
K-4.6 Cl-99 HCO3-27 AnGap-18
___ 04:35AM BLOOD Calcium-10.1 Phos-3.1 Mg-2.0
___ 08:56AM BLOOD Lactate-2.2*

Discharge Labs:
===============
___ 04:45AM BLOOD WBC-15.9* RBC-4.89 Hgb-14.8 Hct-43.6 
MCV-89 MCH-30.3 MCHC-33.9 RDW-12.4 RDWSD-40.8 Plt ___
___ 04:45AM BLOOD Plt ___
___ 04:45AM BLOOD Glucose-95 UreaN-16 Creat-1.0 Na-142 
K-4.4 Cl-102 HCO3-26 AnGap-14
___ 04:45AM BLOOD Calcium-10.0 Phos-4.1 Mg-2.1

Imaging:
========
CXR: ___
Final Report
EXAMINATION:  CHEST (PA AND LAT)
 
INDICATION:  History: ___ with sob, cough// r/o acute process
 
TECHNIQUE:  PA and lateral chest
 
COMPARISON:  None available.
 
FINDINGS: 
 
The lungs are clear.  No pleural effusion.  No pneumothorax.  
The cardiac size
and mediastinal contour are within normal limits. Bony 
structures are
unremarkable.
There is air seen along the right chest wall, as well as a 
linear thickness
along the anterior mediastinum, which may represent air tracking 
consistent
with pneumomediastinum.
 
IMPRESSION: 
 
Foci of air along the right chest wall and anterior mediastinum, 
concerning
for pneumomediastinum. No pneumothorax.

CT Chest ___

Final Report
EXAMINATION:  CT CHEST W/O CONTRAST
 
INDICATION:  History: ___ with dyspnea// eval for 
penumomediastinum
 
TECHNIQUE:  Multi-detector helical scanning of the chest was 
performed without
intravenous iodinated contrast agent and reconstructed as 5 and 
1.25 mm thick
axial, 2.5 mm thick coronal and sagittal, and 8 mm MIP axial 
images.
 
DOSE:  Acquisition sequence:
   1) Spiral Acquisition 5.1 s, 40.0 cm; CTDIvol = 7.8 mGy 
(Body) DLP = 311.5
mGy-cm.
 Total DLP (Body) = 312 mGy-cm.
 
COMPARISON:  Chest radiograph from ___.
 
FINDINGS: 
 
NECK, THORACIC INLET, AXILLAE, CHEST WALL: The imaged thyroid is 
unremarkable.
There is no supraclavicular or axillary lymphadenopathy.  The 
esophagus is
unremarkable. Large volume pneumomediastinum communicates with 
the imaged base
of the neck and the right chest wall.
 
UPPER ABDOMEN: Small foci of air are seen around the gastric 
fundus, for
example (4:211), likely secondary to pneumomediastinum.
 
MEDIASTINUM: There is large volume pneumomediastinum.  No 
mediastinal fluid is
seen.  There is no mediastinal mass or lymphadenopathy.
 
HILA: There is no hilar mass or lymphadenopathy.
 
HEART and PERICARDIUM: Heart size is normal. There are no 
significant coronary
artery or valvular calcifications.  The thoracic aorta is normal 
in caliber.
There is no pericardial effusion.  Large volume 
pneumopericardium is noted.
 
PLEURA: No pleural effusion or pneumothorax.
 
LUNG:
 
1. PARENCHYMA:  There are a few scattered areas of ground-glass 
opacities
bilaterally.  No focal consolidations or suspicious pulmonary 
nodules.  No
definite blebs are seen.
2. AIRWAYS:  The central airways are patent.  There is diffuse, 
severe,
chronic appearing airways disease, as evidence by abnormal 
dilatation of
airways without appropriate tapering, for example in the right 
upper lobe
(4:82), irregular, heterogeneous caliber of airways, and 
multiple areas mucous
plugging bilaterally, for example in the left lower lobe 
(4:162).
3. VESSELS:  Main pulmonary artery diameter is within normal 
limits.
CHEST CAGE: No suspicious osseous lesions are identified. There 
is no acute
fracture.
 
IMPRESSION:
 
 
1. Large volume pneumomediastinum and pneumopericardium, with 
air tracking
into the base of the neck, right thoracic wall and upper 
abdomen.
2. Severe, diffuse, chronic-appearing airways irregularity, mild 
wall
thickening and scattered ground-glass opacities in the bilateral 
lungs.
3. Overall, this constellation of findings may be explained by 
an acute
exacerbation of underlying chronic asthma, possibly precipitated 
by an
atypical infection.

Barium Swallow ___
========================
Final Report
EXAMINATION:  Esophagram
 
INDICATION:  ___ year old man with pneumomediastinum// Evaluate 
for esophageal
perforation
 
TECHNIQUE:  Barium esophagram.
 
DOSE:  Acc air kerma: 4 mGy; Accum DAP: 97.65 uGym2; Fluoro 
time: 00:52
 
COMPARISON:  CT chest ___
 
FINDINGS: 
 
Streaky linear soft tissue air consistent with known 
pneumomediastinum is
noted.
 
The esophagus was not dilated.  There was no stricture within 
the esophagus.
There was no esophageal mass on this limited evaluation.  There 
was no
extraluminal contrast or evidence of esophageal perforation.
 
IMPRESSION: 
 
No evidence of esophageal perforation.

Chest X ray (___)
====================
Final Report
EXAMINATION:  CHEST (PORTABLE AP)
 
INDICATION:  ___ year old man with SPM// interval change in 
pneumomediastinum
 
TECHNIQUE:  Portable chest radiograph
 
COMPARISON:  ___
 
FINDINGS: 
 
There has been interval worsening of subcutaneous emphysema with 
stable
pneumomediastinum.  Small left apical pneumothorax is seen.  
There is no focal
consolidation.  There is no pleural effusion.  No focal 
consolidation. 
Cardiac silhouette is normal.
 
IMPRESSION: 
 
1.  Interval progression of subcutaneous emphysema with stable
pneumomediastinum.
2.  Small left apical pneumothorax.
 

TTE ___
=============
CONCLUSION:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color
Doppler
. The estimated right atrial pressure is ___ mmHg. There is 
normal regional and global left
ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 59 %. There is no
resting left ventricular outflow tract gradient. T
issue Doppler suggests a normal left ventricular filling
pressure (PCWP less than 12mmHg). Normal right ventricular 
cavity size with normal free wall motion.
The aortic valve is not well seen. There is no aortic valve 
stenosis. There is no aortic regur
gitation. The
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is trivial mitral
regur
gitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid
regur
gitation. The pulmonary artery systolic pressure could not be 
estimated. There is no pericardial
effusion.
IMPRESSION:
Preserved biventricular systolic function. No clinically 
significant valvular
regur
gitation or stenosis. Indeterminate pulmonary pressure.

CXR ___
Final Report 
EXAMINATION:  CHEST (PA AND LAT) 
  
INDICATION:  ___ year old man with pneumomedias// ?change in 
pneumomediastinum 
and pneumothorax      ?change in pneumomediastinum and 
pneumothorax 
  
IMPRESSION:  
  
Comparison to ___.  The relatively extensive 
pneumomediastinum and 
pneumopericardium, together with air extension into the soft 
tissues of the 
neck in the chest wall, is unchanged.  The pre-existing small 
left apical 
pneumothorax has improved and is now millimetric.  Stable normal 
appearance of 
the heart.  Normal structure and transparent see of the lung 
parenchyma. 

 
Brief Hospital Course:
Assessment:
===========
___ yo M PMHx depression here with spontaneous 
pneumomediastinum/pneumopericardium.

Active Issues:
==============
#Pneumomediastinum
#Pneumipericardium 
#Atypical pneumonia
Patient presented with dyspnea and chest pain for 3 days prior 
to presentation. Imaging in the ED was revealing for large 
volume pneumomediastrium and pneumopericardium. Also noted 
likely atypical pneumonia and changes consistent with asthma, 
though the patient does not hold a diagnosis of such. He 
endorses feeling ill for 5 days before presentation with 
subjective fevers and fatigue, but denied productive cough. 
Received zoysn and IV methylpred in ED, which was then 
descalated to azithro/ceftriaxone and PO pred while on the 
medical floor. He was evaluated by thoracic surgery in the ED 
who deferred surgical intervention and recommended conservative 
management. He remained afebrile and without productive cough. 
Repeat CXR showed small apical pneumothorax which we treated 
with supplemental oxygen via nasal canula. We monitored the 
patient with continuous oxygen telemetry which showed no major 
desaturations. We also continued the patient treated the patient 
with duonebs q6hrs. He was transitioned to levofloxacin and 
discharged him with 3 days to complete a 5 day course. We are 
concerned that the patient may have undiagnosed and untreated 
asthma which may have been a major contributor to this 
presentation. We discharged the patient with a prescription for 
an albuterol rescue inhaler. He was stable on room air with 
ambulatory saturations in the high ___. He will need follow up 
with a PCP to continue to monitor his recovery. 

CHRONIC/STABLE PROBLEMS:
========================
#Depression
-We continued the patients home fluoxetine 

Transitional Issues:
====================
[] Will need further evaluation for asthma (consider PFTs)
[] Patient should not fly until there is resolution of his 
pneumomediastinum/pneumopericardium.
[] To complete 5 day course of antibiotics for CAP on ___
[] Will complete a 5 day course of steroids for possible asthma 
exacerbation on ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Shortness of breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puffs q6hrs PRN Disp 
#*1 Inhaler Refills:*3 
2.  Levofloxacin 750 mg PO DAILY Duration: 3 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Daily Disp #*3 
Tablet Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 3 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth Daily Disp #*6 Tablet 
Refills:*0 
4.  FLUoxetine 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
=================
1)Pneumomediastinum
2)Pnuemopericardium
3)Pneumothorax
4)Community acquired pneumonia

Secondary Diagnosis 
===================
1) ?Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
-You were admitted for shortness of breath
 
What was done for me while I was in the hospital?  
-You had a CT scan which showed that you had air outside your 
lungs
-We gave you breathing treatments and oxygen 
-We repeated a chest x ray which showed the air outside your 
lungs was not worsening

What should I do when I leave the hospital?  
-Please follow up with your new primary care provider 
-___ all of your medications as prescribed.
-Do not fly until you are cleared to do so by your primary care 
doctor.
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___